US08809369B2
To a stirred mixture solution of 2-(5-bromo-2-chloro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester (1.5 g, 3.56 mmol) in methanol (20 mL) and tetrahydrofuran (20 mL) was added 30% sodium hydroxide in water (10 mL). The reaction mixture was stirred at 60° C. for 6 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×100 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-(5-bromo-2-chloro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (1.39 g, 99%) as a light white solid which was used for next step without further purification: MS (ESI) M+1=394.0.

reactant | 2-(5-bromo-2-chloro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester | 3.56 mmol, 1.5 g | COC(=O)C=1C=C2C(CC(NC2=CC1)C1=C(C=CC(=C1)Br)Cl)(C)C | C19H19BrClNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-(5-bromo-2-chloro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 1.39 g, 99% | BrC=1C=CC(=C(C1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O)Cl | C18H17BrClNO2
